US08012976B2
A mixture of 8,9-di(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (120 mg, 0.35 mmol), platinum (IV) oxide (60 mg) and concentrate hydrochloric acid (0.3 mL) in methanol (20 mL) was stirred at 50° C. under 20 atm of hydrogen. The mixture was filtered out and the filtrate was concentrated to give crude product. The crude product was purified by prep-HPLC to give 9-(piperidin-4-yl)-8-(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (17.6 mg, yield: 16%) as a light yellow solid. 1H-NMR (400 MHz, CD3OD) δ 1.25-1.39 (m, 1H), 1.40-1.52 (m, 1H), 1.60-1.70 (m, 1H), 1.75-1.84 (m, 1H), 1.89-1.98 (m, 1H), 2.50-2.57 (m, 1H), 2.60-2.66 (m, 1H), 3.09-3.21 (m, 2H), 3.34-3.37 (dd, J1=8 Hz, J2=2.4 Hz, 1H), 4.24 (d, J=2 Hz, 1H), 7.02-7.04 (dd, J1=8 Hz, J2=0.8 Hz, 1H), 7.09-7.11 (dd, J1=4.8 Hz, J2=1.2 Hz, 2H), 7.41-7.43 (dd, J1=7.6 Hz, J2=0.8 Hz, 1H), 7.50-7.54 (t, J=8 Hz, 1H), 8.30-8.32 (dd, J1=4.4 Hz, J2=1.6 Hz, 2H); LC-MS (ESI) m/z: 348(M+1)+.

reactant | 8,9-di(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 0.35 mmol, 120 mg | N1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=NC=C1 | C20H15N5O
catalyst | platinum (IV) oxide | 60 mg | [Pt](=O)=O
product | 9-(piperidin-4-yl)-8-(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 17.6 mg, yield: 16% | N1CCC(CC1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=NC=C2 | C20H21N5O
